US07786109B2
(S)-4-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 1, from (S)-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one, 1-isopropyl-piperidin-4-ol (commercially available), triphenylphosphine and di-tert-butyl-azodicarboxylate, to give the desired product as a light yellow foam (40%).

reactant | (S)-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | C[SiH](OC([C@@H]1CNC(C=2N1C=1C=CC(=CC1C2)O)=O)C(C(C)C)(C)C)C | C20H30N2O3Si
reactant | 1-isopropyl-piperidin-4-ol | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl-azodicarboxylate | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
product | (S)-4-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 40% | C[SiH](OC([C@@H]1CNC(C=2N1C=1C=CC(=CC1C2)OC2CCN(CC2)C(C)C)=O)C(C(C)C)(C)C)C | C28H45N3O3Si
